US06136831
The procedure of Example 9 was repeated using 1-(6-methylbenzothiazol-2-yl)-4,4,5,5,5-pentafluoropentane-1,3-dione and 4-methylsulfonylphenylhydrazine hydrochloride as the starting materials to obtain 6-methyl-2-[1-(4-methylsulfonylphenyl)-3-pentafluoroethyl-1H-pyrazol-5-yl]benzothiazole (yield, 45%).

reactant | 1-(6-methylbenzothiazol-2-yl)-4,4,5,5,5-pentafluoropentane-1,3-dione | CC1=CC2=C(N=C(S2)C(CC(C(C(F)(F)F)(F)F)=O)=O)C=C1 | C13H8F5NO2S
reactant | 4-methylsulfonylphenylhydrazine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
product | 6-methyl-2-[1-(4-methylsulfonylphenyl)-3-pentafluoroethyl-1H-pyrazol-5-yl]benzothiazole | 45% | CC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)C)C(C(F)(F)F)(F)F)C=C1 | C20H14F5N3O2S2
